* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 24.7
R1 n1 a 2
R2 a nc 1
V2 nc nd DC 20.2
R3 nd ne 1
V3 b ne DC 17.4
V4 nf b DC 9.1
R4 nf 0 2
.op
.print dc V(a) V(b)
.end